US05587480
2-BENZOYLOXYMETHYL-1,3-DITHIOLANE
A mixture of 2-benzoyloxyacetaldehyde (example (5.65 g), 1,2-ethanedithiol (3 ml) and paratoluenesulfonic acid (200 mg) in toluene (250 ml) was heated at refluxing under water removal conditions using a Dean Stark apparatus for 4 hours. The mixture was cooled to room temperature, washed first with saturated aqueous NaHCO3 solution (1×60 ml), then with water (2×60 ml), and dried over reduced pressure. The residue was purified by chromatography on silica gel using hexane:ethyl acetate (9:1) as eluant to give 5.2 g of pure product which was characterized by 1H- and 13C-NMR spectroscopy.

reactant | 2-benzoyloxyacetaldehyde | C(C1=CC=CC=C1)(=O)OCC=O | C9H8O3
reactant | 1,2-ethanedithiol | 3 ml | C(CS)S | C2H6S2
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 2-BENZOYLOXYMETHYL-1,3-DITHIOLANE | 5.2 g | C(C1=CC=CC=C1)(=O)OCC1SCCS1 | C11H12O2S2
